US07635699B2
To a suspension of 5-(4-chloro-3-fluorophenyl)-2-(2-methoxyphenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carboxamide (351 mg, 0.85 mmol) in CH2Cl2 (10 mL) at 0° C. was added Et3N (0.73 mL, 5.27 mmol) followed by trifluoroacetic anhydride (0.38 mL, 2.72 mmol) over a period of 10 min. The reaction mixture was stirred at 0° C. for an additional 40 min and quenched with 10% Na2CO3 (5 mL) and H2O (10 mL). The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (2×). The combined organic extracts were washed with brine, dried (Na2SO4) and evaporated under reduced pressure. The residue was triturated with ether and purified by column chromatography on silica gel eluting from 30% to 50% EtOAc in hexanes to give 5-(4-chloro-3-fluorophenyl)-2-(2-methoxyphenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carbonitrile (120 mg, 36%) as a yellow solid.

reactant | 5-(4-chloro-3-fluorophenyl)-2-(2-methoxyphenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carboxamide | 0.85 mmol, 351 mg | ClC1=C(C=C(C=C1)C1C(=C(NC=2N1C=C(N2)C2=C(C=CC=C2)OC)C)C(=O)N)F | C21H18ClFN4O2
reactant | Et3N | 5.27 mmol, 0.73 mL | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 2.72 mmol, 0.38 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-chloro-3-fluorophenyl)-2-(2-methoxyphenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carbonitrile | 120 mg, 36% | ClC1=C(C=C(C=C1)C1C(=C(NC=2N1C=C(N2)C2=C(C=CC=C2)OC)C)C#N)F | C21H16ClFN4O
